US09445594B2
Preparation of (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl) methanamine.hydrochloride (C16A)
In a 250 mL flask, 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzonitrile (3.00 g, 9.09 mmol) in ethanol (30 mL) was taken and hydrogen chloride (12 N, 3 mL) was added followed by palladium on carbon (10 wt %, 0.500 g). The reaction mixture was evacuated and purged with hydrogen gas. The reaction mixture was stirred under hydrogen (50 psi) for 24 hours. The reaction mixture was filtered over Celite®, concentrated and the solid obtained triturated with diethyl ether to give the title compound as an off-white solid (2.80 g, 93%): mp 259-263° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.43 (s, 1H), 8.37 (bs, 3H), 8.15 (d, J=8.1 Hz, 2H), 8.08 (d, J=9.3 Hz, 2H), 7.63 (d, J=8.1 Hz, 4H), 4.10 (q, J=6.0 Hz, 2H); ES+ m/z 335 ([M+H]+).

reactant | 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzonitrile | 9.09 mmol, 3.00 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C#N)C=C1)(F)F | C16H9F3N4O
reactant | hydrogen chloride | 12 N, 3 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.500 g | [Pd] | Pd
product | (4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl) methanamine.hydrochloride | 2.80 g, 93% | Cl.FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CN)(F)F | InChI=1S/C16H13F3N4O.ClH/c17-16(18,19)24-14-7-5-13(6-8-14)23-10-21-15(22-23)12-3-1-11(9-20)2-4-12;/h1-8,10H,9,20H2;1H
